US07622463B2
4-(9-Cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-3)
Prepared from 2-chloro-9-cyclopentyl-8,9-dihydro-5-methyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one and 4-aminobenzoic acid using method D. NMR DMSO D6 1.59-1.80 (6H, m), 1.90-1.98 (2H, m), 2.70-2.75 (2H m), 3.18 (3H, s), 3.71-3.75 (2H, m), 4.91 (1H, m), 7.77 (2H, d), 7.94 (2H, d), 8.17 (1H, s), 10.65 (1H, br s). HPLC rt(min): 6.39.

reactant | 2-chloro-9-cyclopentyl-8,9-dihydro-5-methyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | ClC=1N=CC2=C(N(CCC(N2C)=O)C2CCCC2)N1 | C13H17ClN4O
reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
product | 4-(9-Cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | C1(CCCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C20H23N5O3
